US08383821B2
tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(3-cyanophenyl)piperidine-1-carboxylate.
A mixture of tert-Butyl 4-(3-bromophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate (150 mg, 0.238 mmol), zinc cyanide (33.6 mg, 0.286 mmol), palladium tetrakis triphenylphosphine (27.5 mg, 0.024 mmol), and dimethylformamide (1 mL) was charged to a conical vial and purged with nitrogen for 5 minutes. The vial was sealed and heated at 120° C. for 2 hours and then held at room temperature overnight. The resulting mixture was filtered through a syringe tip filter and applied directly to a silica gel column. Gradient elution with 5-40% ethyl acetate/hexanes afforded the product as a clear oil (83 mg, 61%). 1H-NMR (CDCl3, 500 MHz) δ ppm 7.76 (m, 2H), 7.68 (s, 1H), 7.56-7.64 (m, 4H), 7.45-7.49 (m, 1H), 7.38-7.43 (m, 2H), 7.34 (s, 1H), 3.69 (m, 2H), 3.45 (s, 2H), 3.05 (m, 2H), 2.10 (m, 2H), 1.88 (m, 2H), 1.42 (s, 9H). Mass spec.: 576.17 (MH)+.

reactant | tert-Butyl 4-(3-bromophenyl)-4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)piperidine-1-carboxylate | 0.238 mmol, 150 mg | BrC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C32H32BrF3N2O3
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 0.286 mmol, 33.6 mg | [C-]#N.[Zn+2].[C-]#N
product | tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(3-cyanophenyl)piperidine-1-carboxylate | 83 mg, 61% | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)C#N | C33H32F3N3O3
